### ISSUE TITLE
Gallery integrity: erdos-279 generalized axiom is inconsistent (derives False)

### ISSUE THREAD

**Issue by rjwalters** [rjwalters/lean-genius#41236]
## Integrity Issue — CRITICAL (kernel inconsistency)

**Proof**: erdos-279 (`Proofs/Erdos279Problem.lean`)
**Problem**: The axiom `ErdosProblem279_generalized` is inconsistent — it lets the kernel prove `False`.

## Root cause

The axiom takes two "density" hypotheses:

```lean
axiom ErdosProblem279_generalized (A : Set ℕ) (k : ℕ) (hk : 3 ≤ k)
    (hdensity : HasPrimeLikeDensity A)
    (hloglog : HasLogLogDivergence A) :
  GeneralizedCovering A k
```

But both hypothesis predicates have placeholder bodies that **do not mention `A` at all** (the linter even flags `Variable name 'A' is not explicitly referenced` at lines 43 and 49):

```lean
def HasPrimeLikeDensity (A : Set ℕ) : Prop := ∃ c : ℚ, 0 < c ∧ True   -- trivially True
def HasLogLogDivergence (A : Set ℕ) : Prop := True                     -- trivially True
```

So both hypotheses are satisfiable for **any** `A`, including `A = ∅`. But `GeneralizedCovering ∅ k` is provably **false**, because it requires

```lean
∃ (aChoice …), ∃ N, ∀ m ≥ N, ∃ (n : ℕ) (hn : n ∈ A) (t : ℕ), k ≤ t ∧ m = aChoice n hn + t * n
```

and there is no `n ∈ (∅ : Set ℕ)`. Instantiating the axiom at `A = ∅` therefore yields a proof of `False`.

## Evidence (kernel-verified)

Scratch module built against the real `.olean`:

```lean
import Proofs.Erdos279Problem

theorem erdos279_inconsistent : False := by
  have hdens : HasPrimeLikeDensity (∅ : Set ℕ) := ⟨1, by norm_num, trivial⟩
  have hll : HasLogLogDivergence (∅ : Set ℕ) := trivial
  have h : GeneralizedCovering (∅ : Set ℕ) 3 :=
    ErdosProblem279_generalized (∅ : Set ℕ) 3 (le_refl 3) hdens hll
  obtain ⟨aChoice, N, hN⟩ := h
  obtain ⟨n, hn, t, ht, heq⟩ := hN N (le_refl N)
  exact hn

#print axioms erdos279_inconsistent
-- 'erdos279_inconsistent' depends on axioms:
--   [ErdosProblem279_generalized, propext, Classical.choice, Quot.sound]
```

Compiles with exit 0 — the kernel accepts `: False`.

Note: the prime-case axiom `ErdosProblem279` (`∃ a, CoversEventually a k`) is fine — it is a consistent formalization of the open conjecture. The inconsistency is isolated to the *generalized* axiom because its hypotheses are vacuous placeholders.

## Recommended Fix

Make the density hypotheses genuinely constrain `A` so that junk inputs (∅, finite, or low-density sets) cannot satisfy them. Options, in order of preference:

1. **Formalize the density conditions properly** (`|A ∩ [1,N]| ≥ c·N/log N`, `Σ_{n∈A,n≤N} 1/n − log log N → ∞`) instead of `True` placeholders. Real prime-like density is unsatisfiable for `∅`/finite sets, which removes the inconsistency.
2. **Interim scaffold fix**: make the two predicates opaque (or otherwise not trivially provable) so the axiom cannot be instantiated at all until the conditions are formalized — e.g. `opaque HasPrimeLikeDensity (A : Set ℕ) : Prop`. This keeps the module consistent and honest as a Tier-C scaffold.

Do **not** simply add `A.Infinite`: a merely-infinite set (or wrong-density set) still fails `GeneralizedCovering`, so the axiom would remain inconsistent.

Also update `meta.json` `assumptions`/`section` prose that currently describes the `True` bodies as benign "placeholder definitions" — they are actually load-bearing and produce an inconsistency.

---
Discovered during gallery integrity audit. Severity: CRITICAL (soundness).
